US03968116
5,7-DIBROMO-6-CHLORO-1-HYDROXY-2-(TRIFLUOROMETHYL)-1H-IMIDAZO(4,5-b)PYRIDINE
5,7-Dibromo-6-amino-1-hydroxy-2-(trifluoromethyl)-1H-imidazo(4,5-b)pyridine (1.2 grams) in 7 milliliters of concentrated HCl was cooled to 0-10°C. Thereafter, sodium nitrite (0.35 gram) was added as a solid. The addition was carried out portionwise to maintain the temperature below 10°C. Five minutes after completion of the addition of the sodium nitrite, cuprous chloride (0.45 gram) was added portionwise and the resulting reaction mixture stirred for thirty minutes and filtered to separate the desired 5,7-dibromo-6-chloro-1-hydroxy-2-(trifluoromethyl)-1H-imidazo(4,5-b)pyridine product, m.p., 215°C.

reactant | 5,7-Dibromo-6-amino-1-hydroxy-2-(trifluoromethyl)-1H-imidazo(4,5-b)pyridine | 1.2 grams | BrC1=C(C(=C2C(=N1)N=C(N2O)C(F)(F)F)Br)N | C7H3Br2F3N4O
reactant | sodium nitrite | 0.35 gram | N(=O)[O-].[Na+]
reactant | HCl | 7 milliliters | Cl | ClH
product | 5,7-DIBROMO-6-CHLORO-1-HYDROXY-2-(TRIFLUOROMETHYL)-1H-IMIDAZO(4,5-b)PYRIDINE | BrC1=C(C(=C2C(=N1)N=C(N2O)C(F)(F)F)Br)Cl | C7HBr2ClF3N3O
